US07579469B2
Synthesis of 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinazolin-4-one
To a solution of 2-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylamino]benzamide (106 mg) in trimethylorthoformate (6 mL) was added trifluoroacetic acid (0.1 mL). After 1.5 hours, the reaction mixture was concentrated in vacuo. The residue was purified by column chromatography with silica gel (eluted with 70% ethyl acetate-hexanes) to give the title compound as a white solid (82 mg), m.p. 118° C.-121° C.

reactant | 2-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylamino]benzamide | 106 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C(C(=O)N)C=CC=C1)(C(F)(F)F)O)(C)C)OC | C21H24F4N2O3
reactant | trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | trimethylorthoformate | 6 mL | COC(OC)OC | C4H10O3
product | 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinazolin-4-one | 82 mg | FC=1C=CC(=C(C1)C(CC(CN1C=NC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C22H22F4N2O3
